US06248739B1
N-(4-Chlorobenzyl)-6-(2,3-dihydro-4H-1,4-benzoxazin-4-ylmethyl)-1-methyl-4-oxo-1,4-dihydro-3-quinolinecarboxamide
Methanesulfonyl chloride (0.10 mL) is added to a cold (0° C.) solution of N-(4-chlorobenzyl)-6-(hydroxymethyl)-1-methyl-4-oxo-1,4-dihydro-3-quinolinecarboxamide (0.41 g) from Preparation No. 10, DMAP (0.030 g), and 2,4,6-collidine (0.19 mL) in anhydrous DMF (15 mL). The mixture is stirred at room temperature for 12 h and then benzomorpholine (1.60 g) from above is added. The reaction mixture is stirred at room temperature for 2 h and is then heated to 65° C. overnight. The mixture is cooled to room temperature and poured water. The solid is dissolved in CH2Cl2/MeOH and adsorbed onto silica. Purification by column chromatography (eluent CH2Cl2 (1 L), 1% MeOH/CH2Cl2 (2 L)) and then recrystallization from CH2Cl2/hexanes affords 0.56 g (100%) of the title compound as a pale gold solid.

reactant | Methanesulfonyl chloride | 0.10 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | N-(4-chlorobenzyl)-6-(hydroxymethyl)-1-methyl-4-oxo-1,4-dihydro-3-quinolinecarboxamide | 0.41 g | ClC1=CC=C(CNC(=O)C2=CN(C3=CC=C(C=C3C2=O)CO)C)C=C1 | C19H17ClN2O3
reactant | 2,4,6-collidine | 0.19 mL | N1=C(C=C(C=C1C)C)C | C8H11N
reactant | benzomorpholine | 1.60 g | O1CCNC2=C1C=CC=C2 | C8H9NO
catalyst | DMAP | 0.030 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | CH2Cl2 MeOH | C(Cl)Cl.CO
solvent | water | O | H2O
product | N-(4-Chlorobenzyl)-6-(2,3-dihydro-4H-1,4-benzoxazin-4-ylmethyl)-1-methyl-4-oxo-1,4-dihydro-3-quinolinecarboxamide | 0.56 g, 100% | ClC1=CC=C(CNC(=O)C2=CN(C3=CC=C(C=C3C2=O)CN2CCOC3=C2C=CC=C3)C)C=C1 | C27H24ClN3O3
